US09278931B2
A) tert-butyl 2-phenyl-4-{[trans-2-(4-{[3-(trifluoromethyl)benzoyl]amino}phenyl)cyclopropyl]amino}-piperidine-1-carboxylate
To a solution of N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride (60 mg) in methanol (1.5 mL)/THF (1.5 mL) were added tert-butyl 4-oxo-2-phenylpiperidine-1-carboxylate (60.2 mg) and sodium hydrogen carbonate (28.3 mg). The mixture was stirred at 60° C. for 1 hr, and ice-cooled to 0° C. and sodium borohydride (12.7 mg) was added. The mixture was stirred at room temperature for 2 hr, and ice-cooled to 0° C. and saturated aqueous sodium hydrogen carbonate solution was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol) to give the title compound (62 mg).

reactant | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride | 60 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O
reactant | tert-butyl 4-oxo-2-phenylpiperidine-1-carboxylate | 60.2 mg | O=C1CC(N(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H21NO3
reactant | sodium hydrogen carbonate | 28.3 mg | C(O)([O-])=O.[Na+]
reactant | sodium borohydride | 12.7 mg | [BH4-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-phenyl-4-{[trans-2-(4-{[3-(trifluoromethyl)benzoyl]amino}phenyl)cyclopropyl]amino}-piperidine-1-carboxylate | 62 mg | C1(=CC=CC=C1)C1N(CCC(C1)N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)OC(C)(C)C | C33H36F3N3O3
